US04518779
To a stirred solution of 2-hydroxy-1,2-diphenylethylamine (95.5 g, 0.39 m) (obtained by catalytic reduction of benzoin oxime) and triethylamine (43.3 g, 0.429 m) in chloroform (1 liter) maintained under nitrogen was added dropwise chloroacetylchloride (46.2 g, 0.41 m) and the mixture heated to reflux for 1 hour. After cooling, the mixture was washed with 10% HCl (1 liter) and water and the organic phase dried over MgSO4. The solvent was evaporated to a solid residue which was recrystallized from methanol to give 91.0 g of N-chloroacetyl-2-hydroxy-1,2-diphenylethylamine, m.p. 166°-169°.

reactant | 2-hydroxy-1,2-diphenylethylamine | 95.5 g | OC(C(C1=CC=CC=C1)N)C1=CC=CC=C1 | C14H15NO
reactant | triethylamine | 43.3 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetylchloride | 46.2 g | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | N-chloroacetyl-2-hydroxy-1,2-diphenylethylamine | 91.0 g | ClCC(=O)NC(C(C1=CC=CC=C1)O)C1=CC=CC=C1 | C16H16ClNO2
